Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Visual changes
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ G1 at ___ presented for evaluation for blurred vision 
today
with neuro-ophthalmology where she was found to have gaze
abnormality and nystagmus was referred to ED for further
evaluation with concern for ischemic or demylineation cause of 
with gaze abnormalities.

___ reports she has had mild vision disturbance for several
weeks however worsened on ___ morning with difficulty with
depth of vision and mild balance issues, denies any falls. 

She reports she saw an optometrist who referred her to
neuro-ophthalmology at ___ (Dr. ___ today who then referred
her
here. 

Denies any abdominal pain,RUQ pain, chest pain, shortness of
breath, contractions, vaginal bleeding, abnormal discharge,
bleeding fever, chills, nausea vomiting. +FM

Of note had 1 elevated bp in ED of 150/90 in setting of being
told may have MS. ___ denies any prior elevated bp in this
pregnancy.

On insulin for gestational vs prepregnancy diabetes, reports BS
well controlled. 

 
Past Medical History:
PNC
- ___ ___ by 
- O+/ab neg/RI/HBsAg neg/RPRNR/HIV neg/GBS + by urine
- Varicella nonimmune
- Impaired glucose tolerance prepregnancy- started on insulin 
due
to elevated fasting BS, GLT/GTT not done
- low risk NIPT
- normal FFS, fetal echo limited but normal
- Baseline PEC labs ___- negative
- EFW ___ 68% 

PAST MEDICAL HISTORY
- Bifrontal headaches going back to childhood 
- Right hand carpal tunnel (diagnosed ___ years ago, s/p cortisone
shots, current symptoms are similar)
- Plantar fasciitis
- Obesity
- Hypothyroid

 
Social History:
___
Family History:
FAMILY HISTORY
- Paternal aunt with multiple sclerosis
- Diabetes in uncles, grandparents
- ___ healthy (mother w HTN only, father HLD only)
- ___ (1 brother, 1 sister) healthy

 
Physical ___:
T98.2 HR 92 BP 105/60 RR 18 O2sat 100% RA 
GEN: NAD, comfortable
CV: RRR
PULM: CTAB
ABD: Soft, obese, gravid, nontender, no RUQ tenderness 
Ext: warm, well perfused

FHT 130/mod var/+acels/no decels
EXTREM: Positive right Tinel's.
NEUROLOGIC
 - MS: A&Ox3, registers ___, recalls ___ at 5 minutes. Names 
high
and low appropriately for ___ speaker. Comprehension and
recall nl. Follows complex commands easily. No left/right
confusion. Does DOWIR promptly and normally.
 - CN: PERRL 5.5 -> 4 ___. VFFTC without extinguishing to double.
Acuity deferred (wearing glasses). No red desaturation. Gaze is
conjugate in primary position but in looking in either lateral
direction, the ADDUCTING eye moves inward incompletely and there
is corresponding nystagmus of the ABducting eye (which is full).
Facial sensation is intact to touch and pin. There is mild
baseline attenuation of the left fold but the left face 
activates
fully and promptly. Audition is equal. Difficult to see the
palate. Tongue is midline.
 - MOTOR: Tone, strength nl. No drift, ___, Babinski.
 - SENSORY: Nl touch, temp, proprioception, pin. No Romberg.
 - REFLEXES: Mildly brisk throughout, positive pecs and 
adductors
cross
 - GAIT: Base nl, able to tandem (difficult as pt is very
gravid). 

 
Pertinent Results:
MRI/MRA negative
 
Brief Hospital Course:
Consults obtained from neurology; neuro opthalmology; ID
Pt remained stable.
MRI, MRA negative.
Cause of opththalmoplegia unclear. Stroke unlikely
Possiblities include MS, myasthenia ___.
cardiac echo ordered to check for source of clot; ID consult 
requested to rule out infectious vasculitis
 
Medications on Admission:
MEDICATIONS
- NPH 30 units at night
- Humalog sliding scale
- levothyroxine 75 mcg daily
- prenatal vitamins
- docusate daily 100mg daily
- iron dose unknown
- cetirizine 20mg qday prn:allergies

 
Discharge Medications:
same
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
33 week pregnancy, gestational diabetes, hypothyroidism
Intranuclear opthalmoplegia
 
Discharge Condition:
stable
 
Discharge Instructions:
follow up with OB and neurology
pending:Vit-B12:Pnd 
 
 
___    METHYLMALONIC ACID   
___    ACETYLCHOLINE RECEPTOR MODULATING ANTIBODY   
___    ACETYLCHOLINE RECEPTOR ANTIBODY  

 
Followup Instructions:
___